US08957203B2
Preparation of 3-isopropyloxetan-3-yl pyridin-2-yl carbonate
To a suspension of sodium hydride, 60% in mineral oil (331 mg, 8.26 mmol) in THF (25 mL) was added 3-isopropyloxetan-3-ol (800 mg, 6.89 mmol) at 0° C. After stirring 30 min, the solution was transferred to a solution of di(pyridin-2-yl)carbonate (1489 mg, 6.89 mmol) in THF (25 mL) through a cannula. The formed slurry was stirred at 0° C. for 30 min. The slurry was warmed to rt and stirred for 2 h. The reaction was diluted with EtOAc, washed with brine, dried over MgSO4, filtered, concentrated to give a residue that was purified by Biotage eluting with 20% EtOAc in hexanes to afford the desired product 3-isopropyloxetan-3-yl pyridin-2-yl carbonate (320 mg, 20.2% yield) as an oil. 1H NMR (400 MHz, CHLOROFORM-d) d 8.47-8.39 (m, 1H), 7.86-7.78 (m, 1H), 7.31-7.24 (m, 1H), 7.15 (d, J=8.0 Hz, 1H), 4.89 (d, J=8.5 Hz, 2H), 4.67 (d, J=8.5 Hz, 2H), 2.53 (dt, J=13.7, 7.0 Hz, 1H), 1.13 (s, 3H), 1.12 (s, 3H).

reactant | sodium hydride | [H-].[Na+]
reactant | 3-isopropyloxetan-3-ol | 6.89 mmol, 800 mg | C(C)(C)C1(COC1)O | C6H12O2
reactant | di(pyridin-2-yl)carbonate | 6.89 mmol, 1489 mg | N1=C(C=CC=C1)OC(OC1=NC=CC=C1)=O | C11H8N2O3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-isopropyloxetan-3-yl pyridin-2-yl carbonate | 320 mg, 20.2% yield | C(OC1(COC1)C(C)C)(OC1=NC=CC=C1)=O | C12H15NO4
